US07091199B1
Preparation of toluene-4-sulfonic acid 2-[tert-butoxycarbonyl-(3-fluoro-benzyl)-amino]-ethyl ester (Scheme I(b), Compound 6)
Add p-toluenesulfonyl-chloride (0.71 g, 3.71 mmol), portionwise, to a mixture of (3-fluoro-benzyl)-(2-hydroxy-ethyl)-carbamic acid dimethyl-ethyl ester (1 g, 3.71 mmol, prepared from 2-(3-fluoro-benzylamino)-ethanol by methods as are known in the art), triethylamine (0.751 g, 7.4 mmol) and dichloromethane (6 mL). Stir the resulting suspension vigorously overnight at room temperature. Add water (10 mL), separate the organic layer, and extract the aqueous layer with dichloromethane (5 mL), twice. Combine the organic layers and wash with citric acid (5 mL, 20% in water), dry with sodium sulfate and evaporate the solvent to give the final, desired compound. The final compound may be purified by chromatography.

reactant | p-toluenesulfonyl-chloride | 3.71 mmol, 0.71 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (3-fluoro-benzyl)-(2-hydroxy-ethyl)-carbamic acid dimethyl-ethyl ester | CC(C)(C)OC(N(CCO)CC1=CC(=CC=C1)F)=O | C14H20FNO3
reactant | 2-(3-fluoro-benzylamino)-ethanol | FC=1C=C(CNCCO)C=CC1 | C9H12FNO
reactant | triethylamine | 7.4 mmol, 0.751 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | toluene-4-sulfonic acid 2-[tert-butoxycarbonyl-(3-fluoro-benzyl)-amino]-ethyl ester | C(C)(C)(C)OC(=O)N(CCOS(=O)(=O)C1=CC=C(C=C1)C)CC1=CC(=CC=C1)F | C21H26FNO5S
